US04436751
Sodium borohydride (0.2 g, 10 mmol) in ethanol (40 ml) was added dropwise to 2,4-dinitrobenzaldehyde (1.96 g, 10 mmol) in ethanol (40 ml) and stirred for 1 h. The reaction mixture was then evaporated in vacuo, partitioned between ether and aqueous sodium bicarbonate, the ether layer dried (magnesium sulphate) and evaporated in vacuo to yield 2,4-dinitrobenzyl alcohol as a brown solid (1.147 g, 58%), m.p. 105°-110° C.;

reactant | Sodium borohydride | 10 mmol, 0.2 g | [BH4-].[Na+]
reactant | 2,4-dinitrobenzaldehyde | 10 mmol, 1.96 g | [N+](=O)([O-])C1=C(C=O)C=CC(=C1)[N+](=O)[O-] | C7H4N2O5
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2,4-dinitrobenzyl alcohol | 1.147 g, 58% | [N+](=O)([O-])C1=C(CO)C=CC(=C1)[N+](=O)[O-] | C7H6N2O5
